US09084794B2
e) 4-ethyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride
To a 100 mL round bottom flask containing tert-butyl 4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate (800 mg, 2.68 mmol) was added 4M HCl in dioxane (10 mL, 40.0 mmol). The reaction mixture was placed under a nitrogen atmosphere and stirred at room temperature. After 1 h, analysis by LCMS indicated the reaction had gone to completion. The reaction mixture was concentrated in vacuo to afford the title compound as the HCl salt, which was carried forward without further purification. MS(ES)+ m/e 199.0 [M+H]+.

reactant | tert-butyl 4-ethyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | 2.68 mmol, 800 mg | C(C)N1C(COC2(C1)CCN(CC2)C(=O)OC(C)(C)C)=O | C15H26N2O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 40.0 mmol, 10 mL | O1CCOCC1 | C4H8O2
product | 4-ethyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | Cl.C(C)N1C(COC2(C1)CCNCC2)=O | InChI=1S/C10H18N2O2.ClH/c1-2-12-8-10(14-7-9(12)13)3-5-11-6-4-10;/h11H,2-8H2,1H3;1H
